US08211923B2
tert-butyl 5-(3,5-dichloro-phenylsulphonylamino)-2,3-dihydro-indole-1-carboxylate
6 g tert-butyl 5-amino-2,3-dihydro-indole-1-carboxylate are dissolved in 50 ml of pyridine and 50 ml dichloromethane. To this is added dropwise a solution of 6.5 g 3,5-dichlorophenylsulphonyl chloride in 50 ml dichloromethane and the mixture is stirred for 1 hour at ambient temperature. Then it is diluted with dichloromethane and washed with 1 N hydrochloric acid and with saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 70:30 to 30:70).

reactant | tert-butyl 5-amino-2,3-dihydro-indole-1-carboxylate | 6 g | NC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H18N2O2
reactant | 3,5-dichlorophenylsulphonyl chloride | 6.5 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-butyl 5-(3,5-dichloro-phenylsulphonylamino)-2,3-dihydro-indole-1-carboxylate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C19H20Cl2N2O4S
